Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___
 
Chief Complaint:
Back pain, bacteremia
 
Major Surgical or Invasive Procedure:
1. L2 laminotomy bilateral.
2. Laminectomy L3, L4.
3. Laminotomy L5 bilateral.
4. Removal of epidural abscess.
5. Incision and debridement, lumbar spine skin to bone.
6. Biopsy deep muscle, deep bone.
7. Application of incisional wound vacuum-assisted closure
    device.
*All of the above performed during one surgery

 
History of Present Illness:
___ with history of hypertension, admitted to ___ on ___ 
with left hip pain.   She had been seen at ___ 2 days prior with 
pain, and sent home on vicodin, ibuprofen.  Xrays were negative. 
 She continued to have pain, and saw her pcp, and was admitted 
to ___.  Prior to admission, she also developed 
vomiting, bilious ___ nature.
.
According to her daughters and discharge summary, soon after 
admission, she developed fever and back pain.  Blood cultures 
grew staph aureus (not known MRSA v. MSSA) ___ ___ bottles on 
___ and ___ bottles on ___.  Urine culture also with staph 
aureus.  She was started on vancomycin, 1500 mg q 48 hours hours 
on ___ (?)  She also received flagyl and levaquin, doses 
unavailable.
.
Then developed LBBB for which she was transferred to the ICU; 
ruled out for MI.  Cardiology did not feel any further work-up 
was needed.  TTE was done, with ejection fraction of 55% and no 
vegetations.  She continued to have back pain with radiation to 
buttocks.  Also with fevers (today 101).  
.
Work up of back pain included bone scan read as "negative"; CT 
of left hip was "negative".  MRI of spine performed today showed 
L3-L4 small collection; "not an abscess".  Paraspinal muscles 
were "inflamed with edema". 
.
Stay was also notable for acute encephalopathy, ___ past ___ 
days, urinary retention, with foley catheter placed on ___ from 
records, and 1.8 L of urine drained, constipation, with no bowel 
movement since admission. 
.
Pain was treated with a dilaudid PCA (initially with basal rate) 
and now on mscontin.
.
PAIN SCALE: ___ location:
________________________________________________________________

Review of systems compromised by encephalopathy, but as above, 
according to discharge summary and daughter ___.   

 
Past Medical History:
HTN, bilateral TKR, THR.  She has a history of a hereditary 
epiphyseal dysplasia leading to joint replacements.

 
Social History:
___
Family History:
Notable for hereditary bone dysplasia (daughters also with hip 
replacements)
 
Physical Exam:
PAIN SCORE:  ___

VS T 100.2 P BP  139/98 RR 16  96% 2L O2Sat  
GENERAL:  appears ill, uncomfortable, tremulous.
Eyes: EOMI without nystagmus, no scleral icterus noted  
Ears/Nose/Mouth/Throat: dry mucous membranes  
Neck: supple, no JVD or carotid bruits appreciated  
Respiratory: Lungs CTA bilaterally without R/R/W  
Cardiovascular: tachycardic, no murmurs appreciated at rapid 
rate.    
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Genitourinary:  Foley catheter ___ place.
Skin: Patchy erythematous rash, consistent with contact 
dermatitis.
Extremities: Bilateral scars from THR, TKR. 1+ edema 
bilaterally.  2+ radial, DP and ___ pulses b/l.  
Lymphatics/Heme/Immun: No cervical, supraclavicular, axillary or 
inguinal lymphadenopathy noted.  
Neurologic:  
-mental status: Somnolent, delirious.  Oriented after many 
questions to ___.  Knows her doctor is ___.  
-cranial nerves: II-XII intact  
-motor: normal bulk, Moves both legs, with full strength with 
foot extension.  Exam limited by pain and mental status. No 
abnormal movements noted.  No saddle anesthesia, possible 
reduced rectal sphincter tone.  Reflexes not tested.
-sensory: able to feel light touch on legs.
-cerebellar: No nystagmus, dysarthria.
Psychiatric:  anxious, delerious.
.
On Discharge: 

 
Pertinent Results:
Primary information not available.
From ___, as recounted above. 
.
Most recent labs:
Troponin I ___
BUN 9, Cr 0.64
Na 136, K 3.8, Cl 104, CO2 25, Ca 8.3, 
AST 21, ALT 33, Alk phos 77
Albumin 2.8
Protein 5.8
WBC 9.6, Hct ___, platelets 141
.

EKG:
___:  LBBB
___:  NSR, nl axis, intervals.
___ EKG (here) LBBB, rate 103
.

LAST ECHO:
EF 55-60% per ___ records.
.

MRI:  awaiting records
.
BLOOD/URINE CULTURE: 
___ blood cultures staph aureus
___ blood culture GPC
No further blood cultures
.
Urine culture:
Staph aureus > 100k, mixed flora > 100K.
___ 10:11PM BLOOD WBC-10.0 RBC-3.97* Hgb-11.9* Hct-34.6* 
MCV-87 MCH-30.0 MCHC-34.3 RDW-13.8 Plt ___
___ 05:20AM BLOOD WBC-10.6 RBC-3.80* Hgb-11.9* Hct-33.1* 
MCV-87 MCH-31.2 MCHC-35.9* RDW-13.8 Plt ___
___ 05:19AM BLOOD WBC-6.3 RBC-3.03* Hgb-9.1* Hct-25.9* 
MCV-85 MCH-30.1 MCHC-35.2* RDW-14.4 Plt ___
___ 06:33AM BLOOD WBC-7.6 RBC-3.18* Hgb-9.3* Hct-27.3* 
MCV-86 MCH-29.4 MCHC-34.3 RDW-14.2 Plt ___
___ 10:11PM BLOOD Plt ___
___ 05:20AM BLOOD ___ PTT-30.5 ___
___ 07:50AM BLOOD ___ PTT-19.1* ___
___ 07:50AM BLOOD Plt ___
___ 06:33AM BLOOD ___ PTT-22.5 ___
___ 06:33AM BLOOD Plt ___
___ 05:20AM BLOOD ESR-55*
___ 06:47PM BLOOD ESR-50*
___ 06:33AM BLOOD ESR-45*
___ 10:11PM BLOOD Glucose-138* UreaN-8 Creat-0.4 Na-137 
K-3.6 Cl-101 HCO3-24 AnGap-16
___ 05:20AM BLOOD Glucose-124* UreaN-7 Creat-0.4 Na-136 
K-3.4 Cl-100 HCO3-25 AnGap-14
___ 04:28AM BLOOD Glucose-146* UreaN-7 Creat-0.6 Na-131* 
K-3.6 Cl-98 HCO3-21* AnGap-16
___ 05:19AM BLOOD Glucose-125* UreaN-8 Creat-0.5 Na-135 
K-3.5 Cl-103 HCO3-25 AnGap-11
___ 06:33AM BLOOD Glucose-104* UreaN-5* Creat-0.6 Na-135 
K-3.9 Cl-101 HCO3-25 AnGap-13
___ 10:11PM BLOOD ALT-30 AST-25 AlkPhos-102 TotBili-1.2
___ 07:45AM BLOOD ALT-77* AST-74* AlkPhos-94 TotBili-0.7
___ 06:33AM BLOOD ALT-43* AST-28 LD(LDH)-250 AlkPhos-85 
TotBili-0.5
___ 10:11PM BLOOD Calcium-8.5 Phos-1.1* Mg-1.8
___ 05:20AM BLOOD Calcium-8.6 Phos-2.0* Mg-1.8
___ 05:19AM BLOOD Calcium-8.4 Phos-3.9 Mg-2.1
___ 06:33AM BLOOD Calcium-8.6 Phos-3.7 Mg-2.1
___ 07:45AM BLOOD %HbA1c-5.9 eAG-123
___ 06:47PM BLOOD CRP-GREATER THAN 300
___ 06:33AM BLOOD CRP-63.7*
.
Spine MRI
IMPRESSION:
1. Findings indicative of epidural phlegmon with epidural 
abscess posterior
to the thecal sac from L2-3 to L4-5 level, predominantly at L2-3 
and L3-4
levels with small epidural abscesses. There is compression of 
the thecal sacby the enhancing epidural tissue ___ the epidural 
abscess.
2. Left paraspinal soft tissue enhancement involving the erector 
spinae
muscle at L3 level, predominantly with small fluid collections 
indicative of small intramuscular abscesses.
3. No evidence of discitis or osteomyelitis.
4. Multilevel degenerative changes ___ the cervical, thoracic, 
and lumbar
region without high-grade spinal stenosis.
5. No evidence of cord compression.
6. The findings were discussed with Dr. ___ at the time 
of
interpretation of this study on ___ at 4 p.m.
. 
___ TTE
Conclusions
The left atrium is moderately dilated. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
regurgitation. No masses or vegetations are seen on the aortic 
valve, but cannot be fully excluded due to suboptimal image 
quality. The mitral valve leaflets are mildly thickened. No 
masses or vegetations are seen on the mitral valve, but cannot 
be fully excluded due to suboptimal image quality. Mild (1+) 
mitral regurgitation is seen. No masses or vegetations are seen 
on the tricuspid valve, but cannot be fully excluded due to 
suboptimal image quality. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion.
.
IMPRESSION: Suboptimal image quality. Mild mitral regurgitation 
with normal valve morphology. Normal biventricular cavity sizes 
with preserved global biventricular systolic function. Mild 
pulmonary artery systolic hypertension.
.
CLINICAL IMPLICATIONS:
If clinically suggested, the absence of a vegetation by 2D 
echocardiography does not exclude endocarditis.  
.
___ TEE:
Conclusions
No spontaneous echo contrast or thrombus is seen ___ the body of 
the left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. Right atrial appendage ejection 
velocity is good (>20 cm/s). No atrial septal defect is seen by 
2D or color Doppler. Overall left ventricular systolic function 
is normal (LVEF>55%). The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion. No masses or 
vegetations are seen on the aortic valve. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. No mass or vegetation is seen on the mitral 
valve. Mild to moderate (___) mitral regurgitation is seen. No 
vegetation/mass is seen on the pulmonic valve. There is no 
pericardial effusion.
.
IMPRESSION: Mild to moderate mitral regurgitation with normal 
valve morphology. No echocardiographic evidence of endocarditis. 
 
.
Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +.    FINAL SENSITIVITIES. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus and ___ species. 

         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted.  Rifampin should not be used alone for 
therapy. 
         Daptomycin SENSITIVITIES REQUESTED BY ___. ___ 
___. 
         Daptomycin = 0.75MCG/ML. 
         Daptomycin Sensitivity testing performed by Etest. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                    
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
DAPTOMYCIN------------       S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   0.5 S
LINEZOLID-------------     2 S
OXACILLIN-------------   0.5 S
RIFAMPIN-------------- <=0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S
.
___ 4:38 pm SWAB      EPIDURAL FOR CULTURE. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   0.5 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

.
___ 5:20 am BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 
.
___ 7:45 am BLOOD CULTURE
                            **FINAL REPORT ___
Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
___ yo woman with a history of TKR/THR, admitted with bacteremia, 
encephalopathy, new LBBB (transient, now recurrent), and 
epidural abscess.  She was persistently febrile.  Also with 
diffuse rash, which does not appear consistent with drug rash, 
but more with heat dermatitis.
.
# MSSA Bacteremia: The source of her bacteremia was likely her 
epidual abscess.  She had no risk factors for the abscess.  No 
recent admissions, no recent instrumentations, no recent 
illnesses. Ms. ___ was at risk for endocarditis. She had a new 
LBBB on EKG from ___. A transthoracic echocardiogram was 
done and was negative for endocarditis, however it was poor 
image quality.  We had a transesophageal echo done and it was 
negative for vegitations or abscess.  She had positive blood 
cultures with MSSA on ___ and brushings from surgery on 
___ that were MSSA as well.  She was started on vancomycin 
due to a penicillin allergy.  She was admitted to the MICU for 
desensitization of nafcillin, which went without complication.   
Her fever curve decreased and she became afebrile.  Her cultures 
were perisistently negative after starting with the cultures 
from ___. She was discharged on an ___ week antibiotic course. 
 
.  
# Laminectomy/lumbar abscess: She had surgery ___ and ___ 
surgery a bilateral L2 laminotomy, L3, L4 Laminectomy, bilateral 
L5 Laminotomy were performed with removal of the epidural 
abscess, debridement, and biopsies of the deep muscle and deep 
bone.  Her pain was controlled with dilaudid and it was 
transitioned to oxycodone PO, and she did well postprocedurally. 
 Her neurologic exam remained stable without deficit.    
.  
# Delirium: Post procedurally she was transferred to the SICU, 
and she was delirious.  It was likely a combination of her 
narcotics and concomitant treatment with benzodiazepines ___ the 
setting of bacteremia. Her IV pain medication was transitioned 
to PO and her benzodiazepines were stopped.  As her infection 
improved and her pain was controlled with PO medications and the 
benzos cleared her mental status became much improved.  At the 
time of discharge she was back to her baseline.
.
# LBBB/VTach: She has had intermittent LBBB and a run of 17 
beats of VTACH. She had negative TTE and TEE with normal LV 
function, she was ruled out for MI at OSH.  No complaints of 
chest pain. Repeat 12 lead showed resolution of LBBB. EP 
evaluated strips, and thought it to be NSVT, with nothing to do. 
No need for follow-up.
.
# Hyponatremia: She became hyponatremic to 130.  Her thiazide 
was held, and as her pain was controlled her sodium improved. 
.  
# Glucose intolerance: Likely ___ the setting of bacteremia and 
stress reaction vs. chronic glucose intolerance. Her HgbA1c was 
5.9%.
.
# Anemia: hct decreased since surgery to 27.  Baseline on this 
admission was 34. It improved after surgery. 
.  
# HTN: She was kept on Metoprolol and her thiazide was 
discontinued because of the hyponatremia.  
.  
 
Medications on Admission:
MEDICATIONS ON TRANSFER:
Vancomycin 1500 IV mg daily
Mscontin 15 mg po bid
Ativan 0.5 mg q 4 hours
Flexeril 5 mg po tid
Miralax 17 g daily
Nexium 40 mg iv daily
Colace
Benadryl
Zofran
Tylenol ___ q 4 hours prn
Heparin SC 

 
Discharge Medications:
1. Oxycodone 5 mg Tablet Sig: ___ Tablet PO Q6H (every 6 
hours) as needed for Pain.  
2. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
3. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
4. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Nafcillin ___ D2.4W 2 gram/100 mL Piggyback Sig: Two (2) grams 
Intravenous Q4H (every 4 hours) for 8 weeks.  

 
Discharge Disposition:
___ Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Methicillin Sensitive Staph Aureus Bacteremia
Epidural Abscess
Hyponatremia
Anemia
Hypertension
Delirium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___, it was a pleasure taking part ___ your care. You were 
admitted to ___ because of confusion, fevers, and intense back 
pain.  At a different hospital, as well as here, we found an 
abscess next to your spine.  You also were found to have 
bacteria ___ your blood and urine (all the same bug).
.
Orthopedics took you to surgery and performed an operation on 
your back to get rid of the abscess and to help fix your back. 
We treated your infection with IV antibiotics. You have a 
history of allergies to penicillin so you were started on 
vancomycin.  We sent you to the ICU to desensitize you to the 
right antibiotic - nafcillin - which is ___ the penicillin 
family.  You tolerated that well.
.
Your confusion resolved, and at the time of discharge you were 
doing very well.  You had made tremendous improvement. You were 
weak from being very sick, but otherwise you were doing quite 
well.
.
During your stay, we made the following CHANGES to your 
medications:
We STOPPED hydrochlorothiazide
We STARTED Nafcillin 2 grams IV every 4 hours. You will need 
___ weeks if antibiotics.
We INCREASED your Metoprolol to 50mg by mouth three times a day
.
Please take your other medications as prescribed
 
Followup Instructions:
___